US06544982B1
Step B: 3,4-Methylenedioxybenzyl-(3-azepin-1-yl-propyl)-amine
3,4-methylenedioxybenzyl-(3-azepin-1-yl-propionyl)-amide (20 g, 69 mmole) was dissolved in THF and treated with a solution of Borane/THF (1M, 138 mL, 138 mmole) and heated to reflux for 5 hours. Added another 60 mL borane/THF and heated for 4 hours. The reaction was cooled to room temperature and quenched by the careful addition of ethanol (20 mL) and then 6 N HCl (100 mL). The mixture was concentrated at reduced pressure and redissolved in 6N HCl (200 mL) and methanol (100 mL) and heated gently for 15 minutes. After cooling the solution was extracted once with ether (100 mL) and then basified to pH 12 with aqueous sodium hydroxide. This was then extracted with ethyl acetate (3×200 mL) and the combined ethyl acetate extracts were dried over anhydrous sodium sulfate, filtered and concentrated at reduced pressure to give 15 g of the product. 1H NMR (CDCl3, 300 MHz) δ6.82 (s, 1H); 6.76 (s, 2H); 5.95 (s, 2H); 3.7 (s, 2H); 2.7-2.46 (m, 8H); 1.7-1.5 (m, 10H).

reactant | 3,4-methylenedioxybenzyl-(3-azepin-1-yl-propionyl)-amide | 69 mmole, 20 g | C1OC=2C=C(C[N-]C(CCN3C=CC=CC=C3)=O)C=CC2O1
reactant | Borane THF | 138 mmole, 1M, 138 mL | B.C1CCOC1
reactant | borane THF | 60 mL | B.C1CCOC1
solvent | THF | C1CCOC1 | C4H8O
product | 3,4-Methylenedioxybenzyl-(3-azepin-1-yl-propyl)-amine | 15 g | C1OC=2C=C(CNCCCN3C=CC=CC=C3)C=CC2O1 | C17H20N2O2
